US07825253B2
N5-(1H-Benzoimidazol-5-ylmethyl)-N2-(5-methyl-furan-2-ylmethyl)-quinoline-2,5-diamine
The title compound, MS: m/e=384.1 (M+H+), was prepared from 5-nitro-2-chloroquinoline, 5-methyl-2-furanmethanamine and 1H-benzimidazole-5-carbaldehyde as described in example 26.

reactant | 5-nitro-2-chloroquinoline | [N+](=O)([O-])C1=C2C=CC(=NC2=CC=C1)Cl | C9H5ClN2O2
reactant | 5-methyl-2-furanmethanamine | CC1=CC=C(O1)CN | C6H9NO
reactant | 1H-benzimidazole-5-carbaldehyde | N1C=NC2=C1C=CC(=C2)C=O | C8H6N2O
product | N5-(1H-Benzoimidazol-5-ylmethyl)-N2-(5-methyl-furan-2-ylmethyl)-quinoline-2,5-diamine | N1C=NC2=C1C=CC(=C2)CNC=2C=1C=CC(=NC1C=CC2)NCC=2OC(=CC2)C | C23H21N5O
